US06800651B2
N-(3-(Bromomethyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
Resin-supported triphenylphosphine (1.6 g, 3 mmol per gram resin) was dispersed on dichloromethane. At 0° C., bromine (0.850 g, 5.3 mmol) solution was added dropwise to the resin. And the mixture was stirred for 15 min, followed by dropping a solution of N-(3-hydroxymethylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine (0.930 g, 3 mmol). After 1 h, the resin was filtered and washed with CHCl3. Evaporation afforded the title compound. 1H NMR:, 8.81 (s,1H), 8.68 (d,1H, J=5.4 Hz), 8.47 (d,1H,J=8.3 Hz), 7.91 (m,1H), 7.26-7.39 (m,1H), 5.16 (s,2H), 4.40 (s,2H), 3.12 (q,2H,J=7.3 Hz), 1.40 (t,3H,J=7.3 Hz). MS calcd. 370.0; MS (M+1) 371.1.

reactant | triphenylphosphine | 1.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 5.3 mmol, 0.850 g | BrBr | Br2
reactant | N-(3-hydroxymethylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | 3 mmol, 0.930 g | OCC=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H18N2O3S
product | N-(3-(Bromomethyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | BrCC=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C15H17BrN2O2S
